US07981903B2
To a solution of 5-(methyloxy)-1-(4-morpholinylacetyl)-6-nitro-2,3-dihydro-1H-indole (0.56 g, 1.74 mmol) in absolute ethanol (100 mL) and DMA (20 mL) was added tin(II)chloride dihydrate (2.36 g, 10.45 mmol) and 1M HCl (1.0 mL). After overnight stirring, reaction was quenched with excess saturated NaHCO3 solution, stirred for one hr, filtered through celite which was and rinsed with methanol. After organic solvent removal, the aqueous layers were extracted with dichloromethane (2×200 mL), the combined organic layers were adsorbed to silica gel and purified by column chromatography (DCM to 5% MeOH/DCM+0.1% NH4OH) to afford 5-(methyloxy)-1-(4-morpholinylacetyl)-2,3-dihydro-1H-indol-6-amine. ESIMS (M+H)+=292.

reactant | 5-(methyloxy)-1-(4-morpholinylacetyl)-6-nitro-2,3-dihydro-1H-indole | 1.74 mmol, 0.56 g | COC=1C=C2CCN(C2=CC1[N+](=O)[O-])C(CN1CCOCC1)=O | C15H19N3O5
reactant | tin(II)chloride dihydrate | 10.45 mmol, 2.36 g | O.O.[Sn](Cl)Cl
reactant | HCl | 1M, 1.0 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
product | 5-(methyloxy)-1-(4-morpholinylacetyl)-2,3-dihydro-1H-indol-6-amine | COC=1C=C2CCN(C2=CC1N)C(CN1CCOCC1)=O | C15H21N3O3
